data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][O:21]CC(C=C1C=CC(=O)C(=C1)OC)C(CC2=CC(=C(C=C2)O)OC)C(=O)O[Na].[OH-:10]>>[H:20][OH:10].COC1=CC(=CC(C[O-:21])C(CC2=CC(=C(C=C2)O)OC)C(=O)O[Na])C=CC1=O 10=20;20,21=21
[H:20][O:21]CC.CC(=O)CC[O-:10]>>[H:20][O:10]CCC(=O)C.CC[O-:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.C1CCC2(C(C1)CCCO2)O[OH:10].CC(=O)O>>[H:20][OH+:10]OC12CCCCC1CCCO2.OS(=O)(=O)[O-:21].CC(=O)O 10=20;20,21=21
[H:20][C:21]1([CH:22]=[CH:23][C+:24](C(=C1)Br)NC(=O)CC)Br.[Br-:10]>>[H:20][Br:10].CCC(=O)N[C:24]1=[CH:23][CH:22]=[C:21](C=C1Br)Br 10=20;20,21=21,22;22,23=23,24
C[C-:10](C)C.C[O+](C)[Si:20](C)(C)C>>C[C:10](C)(C)[Si-:20](C)(C)(C)[O+](C)C 10=20,
[H:20][OH2+:21].CCOC(=O)C[NH:10]P(C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)O>>[H:20][NH+:10](CC(=O)OCC)P(C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)O.[OH2:21] 10=20;20,21=21
C[C:20]1=[S+:21]CCCS1.[OH2:10]>>C[C:20]1(SCCC[S:21]1)[OH2+:10] 10=20;20,21=21
[H:20][CH2:21]P(=O)(OC)OC.[Li:11][CH3:10]>>[H:20][CH3:10].[Li+:11].COP(=O)([CH2-:21])OC 10,11=10,20;20,21=21
[Li-]([N:12]([CH:11]=[C:10](C)[Si](CC)(CC)CC)C(C)(C)C)[O+:21]=[CH:20]CCCCCCC.CC(C)NC(C)C>>[Li-]1[N+:12](=[CH:11][C:10]([CH:20]([O:21]1)CCCCCCC)(C)[Si](CC)(CC)CC)C(C)(C)C.CC(C)NC(C)C 10,11=10,20;20,21=21;12=11
CC=C[CH2:20][O:21]S(=O)Cl.[Cl-:10]>>CC=C[CH2:20][Cl:10].[O-:21]S(=O)Cl 10=20;20,21=21
C[CH:20]([NH2+:21]C)[OH:10]>>C[CH:20]=[OH+:10].C[NH2:21] 10=20;20,21=21
CCN(CC)[C:20](=[O:21])C.C[C:10](=C)[Mg:11]Br>>CCN(CC)[C:20](C)([C:10](=C)C)[O-:21].[Mg+:11]Br 10,11=10,20;20,21=21
[HH].CC1C(C(=[N:10][N-:20][S:21](=O)(=O)C2=CC=C(C=C2)C)CC3C1CCC4C3(CCC(C4(C)C)O[Si](C)(C)C(C)(C)C)C)C.[Na+]>>[HH].CC1C(C(=[N+:10]=[N-:20])CC2C1CCC3C2(CCC(C3(C)C)O[Si](C)(C)C(C)(C)C)C)C.CC1=CC=C(C=C1)[S-:21](=O)=O.[Na+] 10=20;20,21=21
[CH3:20][O:21][P+:22](C)(O)O.[Cl-:10]>>C[P:22](=[O:21])(O)O.[CH3:20][Cl:10] 10=20;20,21=21,22
[H:20][Br:21].CC1CCCC([C:11](=[CH:10]1)C2=CC=CC=C2)C3=CC=CC=C3>>[H:20][CH:10]1C(CCCC([C+:11]1C2=CC=CC=C2)C3=CC=CC=C3)C.[Br-:21] 10,11=10,20;20,21=21
C1CC[NH:10]C1.C1=CC(=CC=C1[CH2:20][Br:21])C#N>>C1CC[NH+:10](C1)[CH2:20]C2=CC=C(C=C2)C#N.[Br-:21] 10=20;20,21=21
CC(C)(C)OC(=O)NCCCCC[CH2:20][O:21][P+:22](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.[Br-:10].C(Br)(Br)Br>>CC(C)(C)OC(=O)NCCCCC[CH2:20][Br:10].C1=CC=C(C=C1)[P:22](=[O:21])(C2=CC=CC=C2)C3=CC=CC=C3.C(Br)(Br)Br 10=20;20,21=21,22
CC(C)[NH+:21]=[C:20]=NC(C)C.CC(C(=O)[O-:10])NC(=O)OC.CC(C(=O)NC)N>>CC(C)[NH:21][C:20](=NC(C)C)[O:10]C(=O)C(C)NC(=O)OC.CC(C(=O)NC)N 10=20;20,21=21
[H:20][OH2+:21].O[O-:10]>>[H:20][O:10]O.[OH2:21] 10=20;20,21=21
C[C+:20]1CC2CCC1(C2(C)C)C3=C(C=C(C=C3)Cl)[NH2:10].CO.[Cl-]>>CC1(C2CCC13C4=C(C=C(C=C4)Cl)[NH2+:10][C:20]3(C2)C)C.CO.[Cl-] 10=20,
C[CH:11]([CH:10](C[N+](C)(C)C)[CH:20]=[O:21])[O-:12]>>C[CH:11]=[O:12].C[N+](C)(C)C[CH:10]=[CH:20][O-:21] 10,11=10,20;20,21=21;12=11
[H:20][OH:21].C(#N)C(C(=[N-:10])C#N)N>>[H:20][N:10]=C(C#N)C(C#N)N.[OH-:21] 10=20;20,21=21
[B-]([O+:21]=[CH:20]CC1C(CCC(O1)CCOCC2=CC=CC=C2)C)(F)(F)F.CC(C)[Si](C(C)C)(C(C)C)OCCC(CC(=C)C[Si](C)(C)C)[O:12][CH:11]=[CH2:10].CCOCC>>[B-]([O:21][CH:20]([CH2:10][CH:11]=[O+:12]C(CCO[Si](C(C)C)(C(C)C)C(C)C)CC(=C)C[Si](C)(C)C)CC1C(CCC(O1)CCOCC2=CC=CC=C2)C)(F)(F)F.CCOCC 10,11=10,20;20,21=21;12=11
[H:20][Cl:21].C#CCC1=C(C=CC=C1)[NH:12][N:11]=[O:10]>>[H:20][O:10][N:11]=[NH+:12]C1=C(C=CC=C1)CC#C.[Cl-:21] 10,11=10,20;20,21=21;12=11
C1=CC=C(C=C1)C(=O)[CH2:20][Cl:21].C(CO)[NH2:10]>>C1=CC=C(C=C1)C(=O)[CH2:20][NH2+:10]CCO.[Cl-:21] 10=20;20,21=21
C[NH+](C)C1=CC=C[CH:10]=[CH:11]1.O[S+:20](=O)=O>>C[NH+](C)C1=CC=C[CH:10]([CH+:11]1)[S:20](=O)(=O)O 10,11=10,20
[H:20][OH+:21]CC.CCOC(=[NH:10])C1(CCC(C(C1CC(=O)C)(C(=O)OCC)C(=O)OCC)C)C#N.[Cl-]>>[H:20][NH+:10]=C(C1(CCC(C(C1CC(=O)C)(C(=O)OCC)C(=O)OCC)C)C#N)OCC.CC[OH:21].[Cl-] 10=20;20,21=21
CCOC(=O)NN(C(=O)OCC)[P+:20](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.CC(C)CCCC(C)C1CCC2C1(CCC3C2CCC4C3(CCC(C4)[OH:10])C)C.CCCCCCCCCCCCOC1=CC=C(C=C1)C(=O)[O-]>>CCOC(=O)NN(C(=O)OCC)[P:20](C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)[OH+:10]C4CCC5(C(C4)CCC6C5CCC7(C6CCC7C(C)CCCC(C)C)C)C.CCCCCCCCCCCCOC1=CC=C(C=C1)C(=O)[O-] 10=20,
CC(C)(C)[CH2:20][O:21][P+:22](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.C1CC(=O)CCC1C(=O)[O-:10].CCOC(=O)NNC(=O)OCC.CCOC(=O)NN=C(O)OCC>>CC(C)(C)[CH2:20][O:10]C(=O)C1CCC(=O)CC1.C1=CC=C(C=C1)[P:22](=[O:21])(C2=CC=CC=C2)C3=CC=CC=C3.CCOC(=O)NNC(=O)OCC.CCOC(=O)NN=C(O)OCC 10=20;20,21=21,22
C1=CC=C(C=C1)C(C=C(C2=C3C=CC=CC3=CC=C2)[NH:10]CC(=O)O)[C:20](=[O:21])C4=CC=CO4.CC(=O)O.O>>C1=CC=C(C=C1)C2C=C([NH+:10]([C:20]2(C3=CC=CO3)[O-:21])CC(=O)O)C4=C5C=CC=CC5=CC=C4.CC(=O)O.O 10=20;20,21=21
CCOC(=O)[N+:21](=[CH:20]C1=CC=CC=C1)CC2=CC=CC=C2.C[Si](C)(C)C[C:11]#[CH:10].CCO[Sn-](Cl)(Cl)(Cl)Cl>>CCOC(=O)[N:21](CC1=CC=CC=C1)[CH:20]([CH:10]=[C+:11]C[Si](C)(C)C)C2=CC=CC=C2.CCO[Sn-](Cl)(Cl)(Cl)Cl 10,11=10,20;20,21=21
C[C:20](O)([OH:10])[SH2+:21]>>C[C:20](=[OH+:10])O.[SH2:21] 10=20;20,21=21
CC1CC[CH+:20][CH:10](C1)[Sn-:11](C)(C)(C)OC(=O)C>>CC1CC[CH:20]=[CH:10]C1.CC(=O)O[Sn:11](C)(C)C 10,11=10,20
C1=C[N:23]=[CH:22][CH:21]=[C:20]1Cl.[NH2-:10]>>C1=C[N-:23][CH:22]=[CH:21][C:20]1([NH2:10])Cl 10=20;22,23=23;20,21=21,22
